US06175008B1
CIS- AND TRANS-2-BENZOYLOXYMETHYL-5-BENZOYL-1,3-OXATHIOLANE
A mixture of glycoaldehyde (1.2 g, 0.01 mol) and mercaptoacetaldehyde dimer (1.52 g, 0.01 mol) in dry pyridine (20 ml) was heated at 90° C. for 2 h. The clear solution was then cooled in an ice-bath to 0° C., followed by adding benzoyl chloride (4.6 ml). The mixture was stirred at room temperature overnight (16 h), and poured into saturated aqueous NaHCO3 solution (100 ml). The product was extracted into methylene chloride (3×100 ml), washed with water (2×100 ml), dried over MgSO4 and filtered. The solvent was removed on an evaporator and the oily residue was purified on silica gel using hexane:EtOAc 9:1 as eluant to give the product (3.65 g) in 53% yield as a mixture of 1:1 cis and trans isomers.

reactant | glycoaldehyde | 0.01 mol, 1.2 g | C(C=O)O | C2H4O2
reactant | mercaptoacetaldehyde dimer | 0.01 mol, 1.52 g | C1C(SCC(S1)O)O | C4H8O2S2
reactant | benzoyl chloride | 4.6 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | TRANS-2-BENZOYLOXYMETHYL-5-BENZOYL-1,3-OXATHIOLANE | 3.65 g, 53% yield | C(C1=CC=CC=C1)(=O)OC[C@@H]1O[C@H](CS1)C(C1=CC=CC=C1)=O | C18H16O4S
